US05733934
2-Carbethoxy-1-indanone was dissolved in dry methanol at room temperature, to which sodium borohydride was added in three lots while the reaction mixture was kept stirring. The reaction mixture was further stirred for 30 minutes, after which the solid was filtered and the filtrate was evaporated to dryness. The residue was dissolved in dry benzene, to which catalytic amount of p-toluenesulfonic acid was added and the reaction mixture was stirred for one hour. The p-toluenesulfonic acid was filtered off and the filtrate was concentrated to yield ethyl indene-2-carboxylate. The ethyl indene-2-carboxylate was dissolved in methanol and 1.0 equivalent of aqueous sodium hydroxide solution was added and the reaction mixture was kept stirring for overnight. The next day, the reaction was terminated by evaporating the methanol, followed by diluting the residue with water, brought to neutral pH and the precipitated indene-2-carboxylic acid was filtered. NMR: (CDCl3):δ:3.75 (s, 2H, benzylic CH2); 7.4-7.7 (m, 4H, Ar-H); 7.95 (s, 1H, olefinic H).

reactant | 2-Carbethoxy-1-indanone | C(=O)(OCC)C1C(C2=CC=CC=C2C1)=O | C12H12O3
solvent | methanol | CO | CH4O
solvent | sodium borohydride | [BH4-].[Na+]
product | ethyl indene-2-carboxylate | C1C(=CC2=CC=CC=C12)C(=O)OCC | C12H12O2
